* C:\Users\karab\OneDrive\Documents\GitHub\EE463_Project_Onur_Halis_Halid\ltspice_test.asc
XU1 N002 N003 NC_01 0 N001 N007 N002 LT1074
V1 N002 0 50
L1 N004 N003 100µh
D1 0 N003 MBR745
R1 N007 N010 2.7k
C1 N010 0 100nF
C2 N004 0 470µ
V2 v+ 0 24v
V3 v- 0 -24v
C3 N008 N009 10000mF IC=24
R4 N005 N008 0.1
R2 N009 0 0.1
R3 N001 N011 100k
R5 N011 0 10k
R10 N006 0 12
XU2 N009 N011 v+ 0 N001 LT1006
D2 N004 N005 RRE02VS4S
I1 0 N006 2
R7 NC_02 0 2.21k
.model D D
.lib C:\Users\karab\OneDrive\Documents\LTspiceXVII\lib\cmp\standard.dio
.tran 100m uic
.temp 25
.options gmin=1e-10
.options abstol=1e-5
.options reltol=0.003
.options cshunt=1e-15
.lib LT1074.sub
.lib LTC.lib
.backanno
.end
